### ISSUE TITLE
`fprop` can't handle fvars that are not fully applied

### ISSUE THREAD

**Issue by lecopivo** [lecopivo/SciLean#23]
`fprop` is unable to infer `IsDifferentiable K f` from `∀ i, IsDifferentiable K (f · i)`

Here are few examples that should work
```
import SciLean

open SciLean

variable 
  {K : Type _} [IsROrC K]
  {X : Type _} [Vec K X]

example (f : X → Fin 5 → Fin 10 → Fin 15→ K) (hf : ∀ i j k, IsDifferentiable K (f · i j k))
  : IsDifferentiable K f := by fprop

example (f : X → Fin 5 → Fin 10 → Fin 15→ K) (hf : ∀ i j k, IsDifferentiable K (f · i j k))
  : IsDifferentiable K (fun x => f x i j) := by fprop

example (f : X → Fin 5 → Fin 10 → Fin 15→ K) (hf : ∀ i j k, IsDifferentiable K (f · i j k))
  : IsDifferentiable K (fun x => f x) := by fprop

example (f : X → Fin 5 → Fin 10 → Fin 15→ K) (hf : ∀ i j k, IsDifferentiable K (f · i j k))
  : IsDifferentiable K (fun x i j => f x i j) := by fprop

example (f : X → Fin 5 → Fin 10 → Fin 15→ K) (hf : ∀ i j k, IsDifferentiable K (f · i j k))
  : IsDifferentiable K (fun x i j k => f x i j k) := by fprop
```

**Comment by lecopivo** [comment]
The problem goes the other way too, `fprop` can't infer `IsDifferentiable K f` from `∀ i, IsDifferentiable K (f · i)`

**Comment by lecopivo** [comment]
solved by `fun_prop`
